### PR TITLE
Subtraction Notation (relation-algebra missing pieces)

### PR DESCRIPTION
**Pull request by eupp**
Subtraction notation for complemented lattices.

---
This change is [Reviewable](https://reviewable.io/reviews/volodeyka/event-struct/62)

### CODE REVIEW

File: utilities.v [hunk 1]
```diff
@@ -239,9 +244,34 @@ End ReflexiveClosure.
 Notation "r ^?" := (rtc r) (left associativity, at level 5, format "r ^?"): ra_terms.
 
 (* ************************************************************************** *)
-(*     Reflexive closure for decidable relations                              *)
+(*     Subtraction (for complemented lattices, i.e. lattices with negation)   *)
 (* ************************************************************************** *)
 
+Notation "x \ y" := (x ⊓ !y) (right associativity, at level 30): ra_terms.
```
Comment (anton-trunov) [inline utilities.v:250]: For instance, subtraction on numbers and set difference are usually left associative. As for the priority here, usually, e.g. set difference binds just a bit more tightly than set union. So maybe `at level 45`? Would that work?

File: utilities.v [hunk 2]
```diff
@@ -239,9 +244,34 @@ End ReflexiveClosure.
...
+
+(* TODO: reformulate in terms of reflexive closure once 
+ *   we'll generalize it to arbitary lattices with identity.
+ *)
+Lemma cup_sub_one `{CUP+CAP+TOP ≪ l} :
+  forall x, 1 ⊔ x \ 1 ≡ 1 ⊔ x.
+Proof. 
+  move=> x; apply weq_spec; split; first by lattice.
+  have {1}->: x ≡ x ⊓ top by symmetry; apply: capxt.
+  by rewrite -eq_dec capcup; lattice.
```
Comment (anton-trunov) [inline utilities.v:269]: Wow, very cool! I actually wanted to implement the `lattice` tactic myself at some point for an unrelated problem. I didn't know it existed.
One minor suggestion would be to use a rewriting pattern instead of `have {1}->`, like so
```
  move=> x; apply/weq_spec; split; first by lattice.
  by rewrite -[x in _ + x]capxt -eq_dec capcup; lattice.
```
Also, notice that in this case `apply: weq_spec` wouldn't work but `apply/weq_spec` does. The vanilla `apply` tactic supports a special case of biimplications, btw.

File: utilities.v (hunk 1 above)
Comment (eupp) [reply utilities.v:250]: > For instance, subtraction on numbers and set difference are usually left associative. 
My bad. Will fix that.

> So maybe at level 45?
In relation-algebra the union is at level 50, the intersection is at level 40. 
If we'll put subtraction at 45, it will be tighter than the intersection. Is that the desired behavior?

Comment (anton-trunov) [reply utilities.v:250]: > If we'll put subtraction at 45, it will be tighter than the intersection.

Wait, lower levels mean higher priority (I know it's count-intuitive in a sense). Looks like intersection at level 40 will still have higher priority.

Comment (eupp) [reply utilities.v:250]: Oh, yes, you are right. 
Still, is it expected that subtraction notation is in-between intersection and union?

Comment (anton-trunov) [reply utilities.v:250]: I would say 'yes', for instance, https://github.com/math-comp/math-comp/blob/17dd3091e7f809c1385b0c0be43d1f8de4fa6be0/mathcomp/ssreflect/ssrnotations.v#L55-L60

Comment (eupp) [reply utilities.v:250]: Ok, then I will use level 45

**Review by anton-trunov — APPROVED** [review]
